US07858630B2
Step 1: 2,5-Difluoro-benzaldehyde oxime
2,5-Difluorobenzaldehyde (28.5 g, 0.20 mol) was dissolved in 30 ml EtOH. 80 ml water, 80 g crushed ice and hydroxylamine hydrochloride (15.3 g, 0.22 mol) were added. 250 ml (0.50 mol) 2N NaOH were added drop wise and the yellow solution was stirred for 3 hours at room temperature. The reaction mixture was neutralized to pH 6 with acetic acid. The formed suspension was diluted with water and filtered. The crystals were washed with water and dried 2 hours at 50° C. and <20 mbar to obtain the desired product as a white solid (26.1 g, 83%). MS (m/e): 156.0 (M−H+).

reactant | 2,5-Difluorobenzaldehyde | 0.20 mol, 28.5 g | FC1=C(C=O)C=C(C=C1)F | C7H4F2O
reactant | hydroxylamine hydrochloride | 0.22 mol, 15.3 g | Cl.NO
reactant | NaOH | 0.50 mol, 2N, 250 ml | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | EtOH | 30 ml | CCO | C2H6O
solvent | water | O | H2O
solvent | water | 80 ml | O | H2O
product | 2,5-Difluoro-benzaldehyde oxime | 26.1 g, 83% | FC1=C(C=NO)C=C(C=C1)F | C7H5F2NO
